US05183820
6-Fluoro-2,3,4,5-tetrahydro-5-methyl-2-[(4-methyloxazol-5-yl)methyl]-1H-pyrido[4,3-b]indol-1-one
Sodium hydride (73% dispersion in oil; 167 mg) was added to a stirred suspension of 6-fluoro-2,3,4,5-tetrahydro-5-methyl-1H-pyrido[4,3-b]indol-1-one (500 mg) in dry DME (150 ml), and the suspension was stirred at 60° under nitrogen for 6 h. 5-Chloromethyl-4-methyloxazole (440 mg) was then added and the mixture was stirred overnight at 60°. A further quantity of sodium hydride (73% dispersion in oil; 84 mg) was added and the mixture was stirred for 3 h, and then cooled (0°). Water (200 ml) was added, and the mixture was extracted with dichloromethane (3×200 ml). The combined organic extracts were concentrated in vacuo and the residue was purified by FCC eluting with System A (100:8:1) to give the title compound (550 mg) as a solid, m.p. 158°-161°.

reactant | Sodium hydride | 167 mg | [H-].[Na+]
reactant | 6-fluoro-2,3,4,5-tetrahydro-5-methyl-1H-pyrido[4,3-b]indol-1-one | 500 mg | FC1=CC=CC=2C3=C(N(C12)C)CCNC3=O | C12H11FN2O
reactant | 5-Chloromethyl-4-methyloxazole | 440 mg | ClCC1=C(N=CO1)C | C5H6ClNO
reactant | sodium hydride | 84 mg | [H-].[Na+]
reactant | Water | 200 ml | O | H2O
solvent | DME | 150 ml | COCCOC | C4H10O2
product | 6-Fluoro-2,3,4,5-tetrahydro-5-methyl-2-[(4-methyloxazol-5-yl)methyl]-1H-pyrido[4,3-b]indol-1-one | 550 mg | FC1=CC=CC=2C3=C(N(C12)C)CCN(C3=O)CC3=C(N=CO3)C | C17H16FN3O2
